US06136823
Synthesis of 1-(5-Amino-2,4-difluorophenyl)-6-fluoro-7-methoxy-8-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
Methanol (500 mg) and sodium methoxide (28% methanol solution; 200 mg) were added to 1-(5-amino-2,4-difluorophenyl)-6,7-difluoro-8-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (350 mg), and the mixture was heated and stirred at 40° C. for 2 days. Acetic acid (2 drops) was added to the reaction mixture to collect solids by filtration. The solids were washed with ethanol and dried to obtain the title compound (290 mg) as a pale yellow powder.

reactant | sodium methoxide | 200 mg | C[O-].[Na+]
reactant | 1-(5-amino-2,4-difluorophenyl)-6,7-difluoro-8-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 350 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)C)F)F)=O)C(=O)O)F)F | C17H10F4N2O3
catalyst | Acetic acid | 2 drops | C(C)(=O)O | C2H4O2
solvent | Methanol | 500 mg | CO | CH4O
product | 1-(5-Amino-2,4-difluorophenyl)-6-fluoro-7-methoxy-8-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 290 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)C)OC)F)=O)C(=O)O)F)F | C18H13F3N2O4
